US09227944B2
Cis-4-[4-(5-chloro-2-methylphenyl)piperazinyl]-2-buten-1-amine: according to the method of Example 5, phthalimide potassium salt was reacted with cis-1,4-dihydro-2-butene to obtain N-(cis-4-chloro-2-buten-1-yl)phthalimide; which was then reacted with 5-chloro-2-methylphenylpiperazine to obtain N-{4-[4-(5-chloro-2-methylphenyl)piperazinyl]-cis-2-buten-1-yl}phthalimide, which was then reacted with hydrazine hydrate. Yield: 85.7%. Hydrochloride mp: 127-129° C. 1HNMR (ppm, CDCl3) δ: 1.56 (br-s, 4H), 2.23 (s, 3H), 2.71 (br-s, 2H, NH2), 2.96 (m, 4H), 3.12 (d, J=7.0 Hz), 3.41 (d, J=6.72 Hz, 2H), 5.60 (m, 1H), 5.73 (m, 1H), 6.96 (m, 2H), 7.08 (d, J=7.84, 1H).

reactant | Cis-4-[4-(5-chloro-2-methylphenyl)piperazinyl]-2-buten-1-amine | ClC=1C=CC(=C(C1)N1CCN(CC1)C\C=C/CN)C | C15H22ClN3
reactant | phthalimide potassium salt | [K].C1(C=2C(C(N1)=O)=CC=CC2)=O
product | N-(cis-4-chloro-2-buten-1-yl)phthalimide | ClC\C=C/CN1C(C=2C(C1=O)=CC=CC2)=O | C12H10ClNO2
